US06521643B1
To a suspension of N-(3-(4-methoxypyridin-2-yl)phenyl)thiourea (171 mg) in N,N-dimethylformamide (4 ml) were added a solution of hydrogen chloride in 1,4-dioxane (4N, 0.33 ml) and iodoethane (0.263 ml), and the mixture was stirred at 50° C. for 1.5 hours. Ethyl acetate (100 ml) was added to the mixture, and the mixture was cooled. The precipitate was collected by filtration. The precipitate was dissolved in water, and to the solution was added a saturated aqueous sodium hydrogencarbonate solution and extracted with dichloromethane. The organic layer was washed with brine, dried over sodium sulfate and evaporated under reduced pressure. The residue was dissolved in ethyl acetate, and to the solution was added a solution of hydrogen chloride in 1,4-dioxane (4N, 0.5 ml). The precipitate was collected by filtration and dried under reduced pressure to give N-(3-(4-methoxypyridin-2-yl)phenyl)-S-ethylisothiourea dihydrochloride (204 mg).

reactant | N-(3-(4-methoxypyridin-2-yl)phenyl)thiourea | 171 mg | COC1=CC(=NC=C1)C=1C=C(C=CC1)NC(=S)N | C13H13N3OS
reactant | hydrogen chloride | Cl | ClH
reactant | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | 1,4-dioxane | 4N, 0.33 ml | O1CCOCC1 | C4H8O2
solvent | iodoethane | 0.263 ml | ICC | C2H5I
product | N-(3-(4-methoxypyridin-2-yl)phenyl)-S-ethylisothiourea dihydrochloride | 204 mg | Cl.Cl.COC1=CC(=NC=C1)C=1C=C(C=CC1)NC(SCC)=N | InChI=1S/C15H17N3OS.2ClH/c1-3-20-15(16)18-12-6-4-5-11(9-12)14-10-13(19-2)7-8-17-14;;/h4-10H,3H2,1-2H3,(H2,16,18);2*1H
